### PR TITLE
[Merged by Bors] - feat(Ergodic): Radon-Nikodym derivatives of invariant measures

### PR DESCRIPTION
**Pull request by urkud**
---

- [ ] depends on: #23457

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Dynamics/Ergodic/RadonNikodym.lean [hunk 1]
```diff
@@ -0,0 +1,106 @@
...
+        rw [rnDeriv_add_singularPart, hfμ.measure_preimage hsm.nullMeasurableSet]
+      _ = μ.singularPart ν s := by
+        rw [add_apply, withDensity_absolutelyContinuous _ _ hνs, zero_add]
+      _ = μ.singularPart ν univ := by
+        rw [← measure_add_measure_compl hsm, hμs, add_zero]
+  · -- TODO: move to a lemma? What are the right assumptions?
+    calc
+      μ.singularPart ν = (μ.restrict s).singularPart ν := by
+        rw [singularPart_restrict _ _ hsm, restrict_eq_self_of_ae_mem]
+        simpa [measure_zero_iff_ae_nmem] using hμs
```
Comment (EtienneC30) [inline Mathlib/Dynamics/Ergodic/RadonNikodym.lean:56]: `hμs` closes the goal.
```suggestion
        rwa [singularPart_restrict _ _ hsm, restrict_eq_self_of_ae_mem]
```

File: Mathlib/Dynamics/Ergodic/RadonNikodym.lean [hunk 2]
```diff
@@ -0,0 +1,106 @@
...
+      μ.singularPart ν (f ⁻¹' s) = (ν.withDensity (μ.rnDeriv ν) + μ.singularPart ν) (f ⁻¹' s) := by
+        rw [← hfν.measure_preimage hsm.nullMeasurableSet] at hνs
+        rw [add_apply, withDensity_absolutelyContinuous _ _ hνs, zero_add]
+      _ = (ν.withDensity (μ.rnDeriv ν) + μ.singularPart ν) s := by
+        rw [rnDeriv_add_singularPart, hfμ.measure_preimage hsm.nullMeasurableSet]
+      _ = μ.singularPart ν s := by
+        rw [add_apply, withDensity_absolutelyContinuous _ _ hνs, zero_add]
+      _ = μ.singularPart ν univ := by
+        rw [← measure_add_measure_compl hsm, hμs, add_zero]
+  · -- TODO: move to a lemma? What are the right assumptions?
```
Comment (EtienneC30) [inline Mathlib/Dynamics/Ergodic/RadonNikodym.lean:52]: I'm guessing just assuming `μ.HaveLebesgueDecomposition ν` would be fine.

**Review by EtienneC30 — COMMENTED** [review]
Thanks! Do you think some of the finiteness hypotheses could be relaxed somewhere? Or is there some counter-example?

**Comment by urkud** [comment]
> Thanks! Do you think some of the finiteness hypotheses could be relaxed somewhere? Or is there some counter-example?

I have no counter-examples, but I have no proof without these finiteness hypotheses either. If you don't have a proof that doesn't need them, then I suggest that we add a TODO to the module docstring and leave the theorems as is for now.

**Comment by EtienneC30** [comment]
I'm ok with that.

File: Mathlib/MeasureTheory/Decomposition/Lebesgue.lean [hunk 3]
```diff
@@ -477,6 +480,22 @@ lemma singularPart_restrict (μ ν : Measure α) [HaveLebesgueDecomposition μ 
...
       ← μ.haveLebesgueDecomposition_add ν]
 
+/-- If a set `s` separates the absolutely continuous part of `μ` with respect to `ν`
+from the singular part, then the singular part equals the restriction of `μ` to `s`. -/
+theorem singularPart_eq_restrict' {s : Set α} [μ.HaveLebesgueDecomposition ν]
+    (hμs : μ.singularPart ν sᶜ = 0) (hνs : ν.withDensity (μ.rnDeriv ν) s = 0) :
+    μ.singularPart ν = μ.restrict s := by
+  conv_rhs => rw [← singularPart_add_rnDeriv μ ν]
+  rw [restrict_add, restrict_eq_self_of_ae_mem, restrict_eq_zero.2 hνs, add_zero]
+  simpa [measure_zero_iff_ae_nmem] using hμs
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Decomposition/Lebesgue.lean:490]:
```suggestion
  rwa [restrict_add, restrict_eq_self_of_ae_mem, restrict_eq_zero.2 hνs, add_zero]
```

File: Mathlib/Dynamics/Ergodic/MeasurePreserving.lean [hunk 4]
```diff
@@ -132,6 +132,17 @@ theorem measure_preimage_equiv {f : α ≃ᵐ β} (hf : MeasurePreserving f μa
...
+theorem measure_preimage_le {f : α → β} (hf : MeasurePreserving f μa μb) (s : Set β) :
+    μa (f ⁻¹' s) ≤ μb s := by
+  rw [← hf.map_eq]
+  exact le_map_apply hf.aemeasurable _
+
+/-- The preimage of a null set under a measure preserving map is a null set.
+Note that this lemma doesn't require the set to be measurable. -/
+theorem measure_preimage_null {f : α → β} (hf : MeasurePreserving f μa μb) {s : Set β}
+    (hs : μb s = 0) : μa (f ⁻¹' s) = 0 :=
+  nonpos_iff_eq_zero.mp <| (hf.measure_preimage_le s).trans hs.le
```
Comment (EtienneC30) [inline Mathlib/Dynamics/Ergodic/MeasurePreserving.lean:144]: There is already [MeasureTheory.Measure.QuasiMeasurePreserving.preimage_null](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/QuasiMeasurePreserving.html#MeasureTheory.Measure.QuasiMeasurePreserving.preimage_null), so I'm not sure we need this. What do you think?

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/Dynamics/Ergodic/MeasurePreserving.lean (hunk 4 above)
Comment (urkud) [reply Mathlib/Dynamics/Ergodic/MeasurePreserving.lean:144]: I'll drop this lemma.

File: Mathlib/Dynamics/Ergodic/MeasurePreserving.lean [hunk 5]
```diff
@@ -132,17 +132,6 @@ theorem measure_preimage_equiv {f : α ≃ᵐ β} (hf : MeasurePreserving f μa
     μa (f ⁻¹' s) = μb s :=
   measure_preimage_emb hf f.measurableEmbedding s
 
-theorem measure_preimage_le {f : α → β} (hf : MeasurePreserving f μa μb) (s : Set β) :
-    μa (f ⁻¹' s) ≤ μb s := by
```
Comment (EtienneC30) [inline Mathlib/Dynamics/Ergodic/MeasurePreserving.lean]: I think this one was still worth having.

Comment (urkud) [reply Mathlib/Dynamics/Ergodic/MeasurePreserving.lean]: I restored the other lemma too, but made it clear in the proof that it's a special case of `QuasiMeasurePreserving.preimage_null`.

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Comment by sgouezel** [comment]
bors r+
Thanks!
